US06777417B2
4-[3-(4-Oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionyl]-piperazine-1-carboxylic acid tert-butyl ester (37.5mg, 0.1 mmol) was added to 3 ml of dichloromethane at 0° C. followed by the addition of 1 ml of 20% trifluoroacetic acid. The reaction mixture was stirred at room temperature for 8 hours. The reaction solution was rotary evaporated and diluted with 1,4-dioxane. The reaction solution was concentrated at 30° C. till dryness then purified by flash chromatography and eluting with (chloroform: methanol: ammonia 20/1/0.1, 15/1/0.1) to provide 3-(3-oxo-3-piperazin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one.

reactant | 4-[3-(4-Oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.1 mmol, 37.5mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCC1=CNC=2CCCC(C12)=O)=O | C20H29N3O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(3-oxo-3-piperazin-1-yl-propyl)-1,5,6,7-tetrahydro-indol-4-one | O=C(CCC1=CNC=2CCCC(C12)=O)N1CCNCC1 | C15H21N3O2
